US05389666
2-Carboxymethyl-5-hydroxy-1,2,3,4-tetrahydronaphthalene
A mixture of 2-methoxycarbonylmethyl-5-methoxy-1,2,3,4-tetrahydronaphthalene (4.0 g) and pyridine hydrochloride (40 g) was stirred for 2 h at 190° C. The mixture was cooled to room temperature, dissolved into water. The mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and evaporated to give the title compound having the following physical data. The obtained residue was used for the next step without purification.

reactant | 2-methoxycarbonylmethyl-5-methoxy-1,2,3,4-tetrahydronaphthalene | 4.0 g | COC(=O)CC1CC2=CC=CC(=C2CC1)OC | C14H18O3
reactant | pyridine hydrochloride | 40 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | 2-Carboxymethyl-5-hydroxy-1,2,3,4-tetrahydronaphthalene | C(=O)(O)CC1CC2=CC=CC(=C2CC1)O | C12H14O3
